* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : inv_soi_qrc_test3                            *
* Netlisted  : Fri Dec 17 09:40:46 2021                     *
* PVS Version: 16.15-s010 Fri Jun 28 22:24:07 PDT 2019      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(nmos3) _nmos1v _soi_nd(D) poly_conn(G) _soi_nsb(S) _soi_nsb(B)
*.DEVTMPLT 1 MP(pmos3) _pmos1v _soi_pd(D) poly_conn(G) _soi_psb(S) _soi_psb(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_1                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_1 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M3_M2_CDNS_2                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M3_M2_CDNS_2 1
** N=1 EP=1 FDC=0
.ends M3_M2_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_3                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_3 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos3_CDNS_4                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos3_CDNS_4 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 4 3 3 nmos3 L=1e-06 W=2e-06 AD=5e-12 AS=0 PD=9e-06 PS=0 fw=2e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=0
.ends nmos3_CDNS_4

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos3_CDNS_5                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos3_CDNS_5 1 2 3 4
** N=5 EP=4 FDC=1
M0 2 3 4 4 pmos3 L=1e-06 W=2e-06 AD=5e-12 AS=0 PD=9e-06 PS=0 fw=2e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=1
.ends pmos3_CDNS_5

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: inv_soi_qrc_test3                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt inv_soi_qrc_test3 IN OUT VD VS
** N=7 EP=4 FDC=2
X0 IN M2_M1_CDNS_1 $T=286400 455800 0 0 $X=284400 $Y=453800
X1 OUT M2_M1_CDNS_1 $T=582000 452200 0 0 $X=580000 $Y=450200
X2 OUT M2_M1_CDNS_1 $T=1134000 332200 0 0 $X=1132000 $Y=330200
X3 OUT M3_M2_CDNS_2 $T=1130000 332200 0 0 $X=1128000 $Y=330200
X4 OUT M3_M2_CDNS_2 $T=1130000 452200 0 0 $X=1128000 $Y=450200
X5 OUT M1_PO_CDNS_3 $T=338000 452200 0 0 $X=336000 $Y=450200
X6 OUT M1_PO_CDNS_3 $T=458000 452200 0 0 $X=456000 $Y=450200
X7 3 OUT VS IN nmos3_CDNS_4 $T=316000 440200 1 180 $X=300000 $Y=440200
X8 3 OUT IN VD pmos3_CDNS_5 $T=316000 471800 0 180 $X=300000 $Y=457800
.ends inv_soi_qrc_test3
